US06458772B1
a) 2,2-dimethyl-3-(N-Boc-L-valyloxy)propioriic acid
N-Boc-L-valine (10.8 g, 50 mmole), 4-dimethylaminopyridine (610 mg, 5 mmole) and DCC (6.18 g, 30 mmole) were dissolved in methylene chloride (100 ml). After stirring for 2 hour the mixture was filtered. To the filtrate were added 2,2-dimethyl-3-hydroxy-propionic acid (3.54 g, 30 mmole) and pyridine (10 ml). After 18 hr, the reaction mixture was filtered, and the filtrate was poured into sodium hydrogen carbonate aqueous solution, the organic phase was then washed with citric acid aqueous solution and water succesively. After evaporation the product was isolated with silica gel column chromatography to yield 4.4 g. This compound can be activated and esterified directly to a drug or further modified as described below.

reactant | N-Boc-L-valine | 50 mmole, 10.8 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | DCC | 30 mmole, 6.18 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2,2-dimethyl-3-hydroxy-propionic acid | 30 mmole, 3.54 g | CC(C(=O)O)(CO)C | C5H10O3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 5 mmole, 610 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-3-(N-Boc-L-valyloxy)propioriic acid | CC(C(=O)O)(COC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O)C | C15H27NO6
